US05922771
4-(3-Bromopropyl)-1,2-dihydro-6-methoxynaphthalene
To tetrahydrofuran (100 ml), in which magnesium (2.9 g) was suspended, was gradually added dropwise under ice-cooling bromocyclopropane (14.4 g, 119 mmol.) under argon atmosphere. The mixture was stirred for 30 minutes at room temperature, to which was added dropwise a tetrahydrofuran (50 ml) solution of 7-methoxy-1-tetralone (15 g, 85.1 mmol.), which was heated for 2 hours under reflux. The reaction mixture was cooled to room temperature, to which was poured a saturated aqueous solution of ammonium chloride, followed by extracting the organic substance with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was dissolved in acetic acid (100 ml), to which was added 20% hydrobromic acid (75 ml). The reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated, which was poured into a saturated aqueous solution of sodium hydrogencarbonate, and the organic substance was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate hexane=1:9) to afford the titled compound (20 g, yield 84%, oily).

reactant | magnesium | 2.9 g | [Mg] | Mg
reactant | bromocyclopropane | 119 mmol, 14.4 g | BrC1CC1 | C3H5Br
reactant | 7-methoxy-1-tetralone | 85.1 mmol, 15 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(3-Bromopropyl)-1,2-dihydro-6-methoxynaphthalene | 20 g, yield 84% | BrCCCC1=CCCC2=CC=C(C=C12)OC | C14H17BrO
